US04898977
5(S)-azido-6-cyclohexyl-4(S)-hydroxy-2(S)-isopropylhexanoic acid n-butylamide
24.9 g (0.09 mol) of 5(S)-azido-6-cyclohexyl-2(S)-isopropyl-4(S)-hexanolide in 250 ml of n-butylamine are boiled under reflux for 10 hours. After evaporating off the solvent, the residue is recrystallised from hexane: m.p. 100°-100.5°.

reactant | 5(S)-azido-6-cyclohexyl-2(S)-isopropyl-4(S)-hexanolide | 0.09 mol, 24.9 g | N(=[N+]=[N-])[C@H]([C@@H]1C[C@H](C(=O)O1)C(C)C)CC1CCCCC1 | C15H25N3O2
solvent | n-butylamine | 250 ml | C(CCC)N | C4H11N
product | 5(S)-azido-6-cyclohexyl-4(S)-hydroxy-2(S)-isopropylhexanoic acid n-butylamide | C(CCC)NC([C@@H](C[C@@H]([C@H](CC1CCCCC1)N=[N+]=[N-])O)C(C)C)=O | C19H36N4O2
